US07576074B2
4-Chloro-6-(methyl-oxy)-7-[(phenylmethyl)oxy]quinazoline hydrochloride (22.91 g, 67.9 mmol) was suspended in isopropanol followed by addition of 3,4-dichloroaniline (13.2 g, 81.5 mmol) and concentrated aqueous hydrochloric acid (1 mL). The mixture was brought to reflux over 12 hours and diluted with ethyl ether (150 mL). The solid was collected by filtration, washed with additional ethyl ether and dried. The material was then taken into trifluoroacetic acid (150 mL) and brought to reflux over 1 hour. The solution was cooled to room temperature then concentrated in vacuo to give a crystalline residue. The residue was suspended in acetonitrile (100 mL) followed by addition of ethyl ether (100 mL). The solid was collected by filtration and washed with additional ethyl ether then dried in vacuo to give 4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-ol (21.49 g, 64% yield) as a tan solid. 1H NMR (400 MHz, d6-DMSO): 11.09 (br s, 1H), 8.87 (s, 1H), 8.07 (d, 1H), 8.00 (s, 1H), 7.23 (s, 1H), 3.98 (s, 3H); MS (EI) for C15H11N3O2Cl2: 337 (MH+).

reactant | 4-Chloro-6-(methyl-oxy)-7-[(phenylmethyl)oxy]quinazoline hydrochloride | 67.9 mmol, 22.91 g | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1=CC=CC=C1
reactant | 3,4-dichloroaniline | 81.5 mmol, 13.2 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | ethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
product | 4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-ol | 21.49 g, 64% yield | ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)O | C15H11Cl2N3O2
